US04036962
6,7-Methylenedioxy-1-(2,2,2-trifluoroethyl)-4(1H)-quinolone-3-carboxylic acid, trimethylacetoxymethyl ester
To a mixture of 2.6 g. 6,7-methylenedioxy-1-(2,2,2-trifluoroethyl)-4(1H)-quinolone-3-carboxylic acid and 35 ml. of dimethyl formamide was added 1.4 g. of triethylamine. The mixture was warmed to 55° and kept there for 1/2 hour. 2.8 g. of chloromethyl trimethylacetate was then added and the resulting mixture was stirred at 55° for 5 hours. The cooled solution was diluted with 150 ml. of ethyl acetate and washed with water. The ethyl acetate solution was dried over magnesium sulfate and concentrated. The solid residue, 6,7-methylenedioxy-1-(2,2,2-trifluoroethyl)-4(1H)-quinolone-3-carboxylic acid, trimethylacetoxymethyl ester, was recrystallized from CH2Cl2 -ether mixture; m.p. 190°-1°.

reactant | 6,7-methylenedioxy-1-(2,2,2-trifluoroethyl)-4(1H)-quinolone-3-carboxylic acid | C1OC=2C=C3C(C(=CN(C3=CC2O1)CC(F)(F)F)C(=O)O)=O | C13H8F3NO5
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
reactant | chloromethyl trimethylacetate | CC(C(=O)OCCl)(C)C | C6H11ClO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 6,7-Methylenedioxy-1-(2,2,2-trifluoroethyl)-4(1H)-quinolone-3-carboxylic acid, trimethylacetoxymethyl ester | C1OC=2C=C3C(C(=CN(C3=CC2O1)CC(F)(F)F)C(=O)OCOC(C(C)(C)C)=O)=O | C19H18F3NO7
